US06008230
To a solution of 8-(2,6-dichlorobenzoylamino)-4-[2-(3-carboxypropanoyl)hydrazino]quinoline (138 mg) in dimethylformamide (3 ml) were added 1-hydroxybenzotriazole (45.9 mg) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (65.1 mg) at ambient temperature, and the mixture was stirred at the same temperature overnight. To the mixture was added water, and the resulting precipitates were collected by filtration to give 8-(2,6-dichlorobenzoylamino)-4-(2,5-dioxopyrrolidin-1-ylamino)quinoline (72 mg).

reactant | 8-(2,6-dichlorobenzoylamino)-4-[2-(3-carboxypropanoyl)hydrazino]quinoline | 138 mg | ClC1=C(C(=O)NC=2C=CC=C3C(=CC=NC23)NNC(CCC(=O)O)=O)C(=CC=C1)Cl | C20H16Cl2N4O4
reactant | 1-hydroxybenzotriazole | 45.9 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 65.1 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | water | O | H2O
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 8-(2,6-dichlorobenzoylamino)-4-(2,5-dioxopyrrolidin-1-ylamino)quinoline | 72 mg | ClC1=C(C(=O)NC=2C=CC=C3C(=CC=NC23)NN2C(CCC2=O)=O)C(=CC=C1)Cl | C20H14Cl2N4O3
